US07541374B2
The obtained 1-hydroxymethyl-3-nitro-1H-pyrole was dissolved to 3 ml of chloroform, and 3 ml of thionyl chloride was added, followed by stirring at room temperature for 1 hour. After the reaction mixture was cooled to 0° C., it was poured into ice-water. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 620 mg of 1-chloromethyl-3-nitro-1H-pyrole.

reactant | 1-hydroxymethyl-3-nitro-1H-pyrole | OCN1C=C(C=C1)[N+](=O)[O-] | C5H6N2O3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-chloromethyl-3-nitro-1H-pyrole | 620 mg | ClCN1C=C(C=C1)[N+](=O)[O-] | C5H5ClN2O2
